Topological sort example
V1 IN 0 4.0
XX IN 0 twoResistorsInSeries M = 10

.SUBCKT twoResistorsInSeries input output params: R1=10 R2=20
X1 input 1 resistor R=R1
X2 1 output resistor R=R2
.ENDS twoResistorsInSeries

.SUBCKT resistor input output params: R=1
R1 input output {R} m = 3
.ENDS resistor

.OP
.SAVE I(V1)
.END